US04110337
(c) 2-Methyl-(2'-aminoanilino)-propionic acid
30 g (mol/7.45) of 2-methyl-(2'-nitroanilino)-propionic acid in solution in 320 ml of methanol are hydrogenated in the presence of 3 g of palladium on carbon to 10% in an autoclave with a capacity of 500 ml. H2 pressure in the cold = 105 kg/cm2. Temperature = 25°-35° C. (exothermic). Duration: 5 minutes. Pressure drop (calculated): 53 kg (actual): 43 kg. After filtration of the catalyst and evaporation of the filtrate to dryness, 22 g of a pink-coloured solid of melting point 130°-132° C. are isolated. Yield 84.6% (theoretical yield = 26 g).

reactant | 2-methyl-(2'-nitroanilino)-propionic acid | 30 g | CC(C(=O)O)(C)NC1=C(C=CC=C1)[N+](=O)[O-] | C10H12N2O4
solvent | methanol | 320 ml | CO | CH4O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | 2-Methyl-(2'-aminoanilino)-propionic acid | Yield 84.6% | CC(C(=O)O)(C)NC1=C(C=CC=C1)N | C10H14N2O2
